US08440698B2
To a toluene (8 mL) solution of [IrCl(cod)]2 (54 mg, 0.08 mmol) and sodium carbonate (506 mg, 4.8 mmol) was added ethyl 3-bromo-4-hydroxybenzoate (CAS 37470-58-9) (1.95 g, 7.96 mmol) followed by vinyl acetate (1.5 mL, 15.9 mmol) under argon. The mixture was stirred at 100° C. for 2 hours. The mixture was cooled to room temperature, quenched with wet ether. Solid was filtered off and washed with ether. Column chromatography (3% ethyl acetate/hexane) gave ethyl 3-bromo-4-(vinyloxy)benzoate (1.77 g, 79%) as a yellow oil.

reactant | sodium carbonate | 4.8 mmol, 506 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl 3-bromo-4-hydroxybenzoate | 7.96 mmol, 1.95 g | BrC=1C=C(C(=O)OCC)C=CC1O | C9H9BrO3
reactant | vinyl acetate | 15.9 mmol, 1.5 mL | C(C)(=O)OC=C | C4H6O2
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-bromo-4-(vinyloxy)benzoate | 1.77 g, 79% | BrC=1C=C(C(=O)OCC)C=CC1OC=C | C11H11BrO3
